US07326791B2
N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-(4-oxo-4,5-dihydroimidazo[4,5-c]pyridin-1-yl)-3-trifluoromethylbenzamide
Prepared analogously to Example 1g from 4-(4-oxo-4,5-dihydroimidazo[4,5-c]pyridin-1-yl)-3-trifluoromethylbenzoic acid, TBTU, diisopropylethylamine, and (1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine in dimethylsulfoxide. Yield: 51%; Rf value: 0.16 (silica gel: dichloromethane/methanol=10:1); C23H16ClF3N6O2 (500.866); mass spectrum: (M+H)+=501/503 (chlorine isotope).

reactant | 4-(4-oxo-4,5-dihydroimidazo[4,5-c]pyridin-1-yl)-3-trifluoromethylbenzoic acid | O=C1NC=CC2=C1N=CN2C2=C(C=C(C(=O)O)C=C2)C(F)(F)F | C14H8F3N3O3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine | ClC1=CC2=C(NC(=N2)[C@H](C)N)C=C1 | C9H10ClN3
reactant | chlorine | ClCl | Cl2
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
solvent | dichloromethane methanol | ClCCl.CO
product | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-(4-oxo-4,5-dihydroimidazo[4,5-c]pyridin-1-yl)-3-trifluoromethylbenzamide | Yield: 51% | ClC1=CC2=C(NC(=N2)[C@H](C)NC(C2=CC(=C(C=C2)N2C=NC=3C(NC=CC32)=O)C(F)(F)F)=O)C=C1 | C23H16ClF3N6O2
